US07067540B2
Step 1: 1-allyl-3-chloro-4-hydroxy-6-methylpyridin-2(1H)-one.
To a stirred solution of 1-allyl-4-hydroxy-6-methylpyridin-2(1H)-one (500 mg, 3.0 mmol) in CH3CN(10 ml), at rt, was added sequentially n-bromosuccinimide (440 mg, 3.3 mmol) and dichloroacetic acid (546 μl, 6.62 mmol). The resulting mixture was stirred for 2 h. The heterogeneous mixture was filtered and the solid was washed with additional CH3CN to give 350 mg (59%) of the desired product as a tan solid. 1H-NMR (DMSOd6/300 MHz) δ 11.16 (s, 1H), 5.98-5.86 (m, 2H), 5.12 (dd, J=10.5, 1.5 Hz, 1H), 4.89 (dd, J=17.1, 1.5 Hz, 1H), 4.63-4.61 (m, 2H), 2.29 (s, 3H). ES-HRMS m/z 200.050 (M+H calcd for C9H11ClNO2=200.0470)

reactant | 1-allyl-4-hydroxy-6-methylpyridin-2(1H)-one | 3.0 mmol, 500 mg | C(C=C)N1C(C=C(C=C1C)O)=O | C9H11NO2
reactant | n-bromosuccinimide | 3.3 mmol, 440 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dichloroacetic acid | 6.62 mmol, 546 μl | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 1-allyl-3-chloro-4-hydroxy-6-methylpyridin-2(1H)-one | 350 mg, 59% | C(C=C)N1C(C(=C(C=C1C)O)Cl)=O | C9H10ClNO2
